US09085563B2
2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindolin-1,3-dione (S)-2-(nicotinamido)-3-methylbutanoate
2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindolin-1,3-dione (S)-2-amino-3-methylbutanoate (200 mg) and 2,5-dioxopyrrolidinyl nicotinate (120 mg) were dissolved in DCM (20 mL). The mixture was stirred on a magnetic stirrer at room temperature. Triethylamine (1 mL) was added in one portion and the mixture was allowed to react overnight. The reaction mixture was then poured into DCM (30 mL), washed with saturated sodium bicarbonate solution three times (30 mL/wash) and brine (30 mL), dried with anhydrous magnesium sulfate, and filtered. The solvent was removed by rotary evaporation in vacuo. The crude product was purified by silica gel column chromatography (eluted with chloroform: acetone=5:2) to yield pure title compound (239 mg). 1HNMR (CDCl3, ppm) δ 9.04 (d, 1H, J=11.2Hz), 8.72 (s, 1H), 8.13 (d, 1H, J=8.0Hz), 7.87-7.90 (m, 2H), 7.76-7.78 (m, 2H), 7.41 (dd, 1H, J=8.0, 11.2Hz), 6.73 (d, 1H, J=9.6Hz), 5.86-5.98 (m, 2H), 5.05-5.08 (m, 1H), 3.00-3.15 (m, 1H), 2.80-2.95 (m, 2H), 2.12-2.28 (m, 1H), 2.10-2.20 (m, 2H), 0.97-1.05 (m, 3H), 0.85-0.88 (m, 3H).

reactant | 2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindolin-1,3-dione (S)-2-amino-3-methylbutanoate | 200 mg | N[C@H](C(=O)O)C(C)C.OCCN1C(C(CCC1=O)N1C(C2=CC=CC=C2C1=O)=O)=O
reactant | 2,5-dioxopyrrolidinyl nicotinate | 120 mg | C(C1=CN=CC=C1)(=O)ON1C(CCC1=O)=O | C10H8N2O4
reactant | Triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-(2-hydroxyethyl)-2,6-dioxopiperidin-3-yl)isoindolin-1,3-dione (S)-2-(nicotinamido)-3-methylbutanoate | 239 mg | C(C1=CN=CC=C1)(=O)N[C@H](C(=O)O)C(C)C.OCCN1C(C(CCC1=O)N1C(C2=CC=CC=C2C1=O)=O)=O | InChI=1S/C15H14N2O5.C11H14N2O3/c18-8-7-16-12(19)6-5-11(15(16)22)17-13(20)9-3-1-2-4-10(9)14(17)21;1-7(2)9(11(15)16)13-10(14)8-4-3-5-12-6-8/h1-4,11,18H,5-8H2;3-7,9H,1-2H3,(H,13,14)(H,15,16)/t;9-/m.0/s1
